US08044052B2
Diethyl fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate
To a solution of diethyl hydroxy(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate (1.3 g, 3.2 mmol) in dry CH2Cl2 at −78° C. was added DAST (0.3 mL, 3.82 mmol) dropwise very slowly. The reaction mixture was allowed to reach RT, and stirred for 2 h. After completion of the reaction, excess DAST was quenched with water at 0° C. The mixture was extracted with CH2Cl2, dried and concentrated to dryness, and the residue was purified by column chromatography to give the pure title compound (940 mg). 1H NMR (500 MHz, CDCl3): δ 1.2 (m, 6H), 4.1 (m, 4H), 5.7 (dd, 1H, J=45 Hz, 5 Hz), 7.0 (d, 1H, J=10 Hz), 7.1 (d, 1H, J=5 Hz), 7.2-7.4 (m, 4H), 7.9 (m, 1H), 8.4 (s, 1H).

reactant | diethyl hydroxy(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate | 3.2 mmol, 1.3 g | OC(C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F)P(OCC)(OCC)=O | C17H19F3NO5P
reactant | DAST | 3.82 mmol, 0.3 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Diethyl fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylphosphonate | 940 mg | FC(C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F)P(OCC)(OCC)=O | C17H18F4NO4P
